US04792553
To 9.44 g (36.0 mmol) of said ethyl 5-(2,4-dimethoxyphenyl)-2,4-pentadienoate was added 80 ml of methanol to give a solution. To thesolution was then added a solution of 14.40 g (360 mmol) of sodium hydroxide dissolved in 20 ml of water, and the mixture was stirred at room temperature for 2 hours. The resulting mixture was concentrated under reduced pressure followed by addition of water and a hydrochloric acid solution to adjust the pH to 1 and extraction with chloroform. The organic layer was washed with water and a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. Concentration under reduced pressure gave 7.70 g (32.9 mmol) of 5-(2,4-dimethoxyphenyl)-2,4-pentadienoic acid.

reactant | ethyl 5-(2,4-dimethoxyphenyl)-2,4-pentadienoate | 36.0 mmol, 9.44 g | COC1=C(C=CC(=C1)OC)C=CC=CC(=O)OCC | C15H18O4
reactant | methanol | 80 ml | CO | CH4O
reactant | sodium hydroxide | 360 mmol, 14.40 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 5-(2,4-dimethoxyphenyl)-2,4-pentadienoic acid | 32.9 mmol, 7.70 g | COC1=C(C=CC(=C1)OC)C=CC=CC(=O)O | C13H14O4
